US07312330B2
B. 6-Amino-3,3-dimethylindolin-2-one
A mixture of 3,3-dimethyl-6-nitroindolin-2-one (500 mg, 2.4 mmol), 10% Pd—C (100 mg), and MeOH (100 mL) was stirred under H2 (1 atm) for 3 h. After that the catalyst was filtered off and the filtrate was concentrated to give an off-white solid (420 mg).

reactant | 3,3-dimethyl-6-nitroindolin-2-one | 2.4 mmol, 500 mg | CC1(C(NC2=CC(=CC=C12)[N+](=O)[O-])=O)C | C10H10N2O3
catalyst | Pd—C | 100 mg | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | 6-Amino-3,3-dimethylindolin-2-one | 420 mg | NC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H12N2O
